US06384051B1
N-{3-Cyano-4-[(3-methylphenyl)amino]-6-quinolinyl}-2-butynamide
Dissolved 597 mg (7.10 mmol) 2-butynoic acid in 25 ml THF under N2 and chilled to 0° C. Added 950 μl (7.30 mmol) isobutyl chloroformate and 780 μl (7.10 mmol) N-methylmorpholine and stirred for 10 minutes. Added dropwise a solution of 778 mg (2.84 mmol 6-amino-4-[(3-methylphenyl)amino]-3-quinolinecarbonitrile, stirred for 15 minutes at 0° C. and then at 25° C. overnight. Stripped solvent and slurried residue with water, drying the gummy solid in vacuo briefly. Boiled solid in ethyl acetate and collected. Recrystallized from DMF, using ethanol to crash out the product, and dried in vacuo, giving 401 mg of yellow-brown solid: mass spectrum (electrospray m/e): M+H=341.2.

reactant | 2-butynoic acid | 7.10 mmol, 597 mg | C(C#CC)(=O)O | C4H4O2
reactant | isobutyl chloroformate | 7.30 mmol, 950 μl | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-methylmorpholine | 7.10 mmol, 780 μl | CN1CCOCC1 | C5H11NO
reactant | 6-amino-4-[(3-methylphenyl)amino]-3-quinolinecarbonitrile | 2.84 mmol | NC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=CC=C1)C | C17H14N4
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | N-{3-Cyano-4-[(3-methylphenyl)amino]-6-quinolinyl}-2-butynamide | 401 mg | C(#N)C=1C=NC2=CC=C(C=C2C1NC1=CC(=CC=C1)C)NC(C#CC)=O | C21H16N4O
